US07226923B2
4-(5-Methyl-1H-pyrazol-3-ylamino)-2-(4-phenylamino-phenyl)-2H-phthalazin-1-one
2-(4-Chloro-phenyl)-4-(5-methyl-1H-pyrazol-3-ylamino)-2H-phthalazin-1-one (B-1, 0.10 g, 0.28 mmol), aniline (0.034 g, 0.37 mmol), NaOtBu (0.041 g, 0.43 mmol), tris-(dibenzylideneacetone)-dipalladium (0.026 g, 0.028 mmol) and 2-(di-t-butylphosphino)-biphenyl (0.017 g, 0.057 mmol) under argon were heated to 100° C. for 17 hours, and then allowed to cool to room temperature. The solvent was evaporated in vacuum, the residue was diluted in H2O (50 ml) and the resulting solid was collected by filtration. Purification of the raw product by chromatography over silica gel with dichloromethane:MeOH (20:1) gave the title compound (0.002 g, 2% yield) as a white solid (example U-1). 1H-NMR: (400 MHz, D6-DMSO) 12.0 (1H, s), 9.23 (1H, s), 8.49 (1H, d), 8.33–8.37 (2H, m), 7.88–7.97 (2H, m), 7.54 (2H, d), 7.28 (2H, t), 7.15 (4H, m), 6.86 (1H, t), 6.25 (1H, s), 2.19 (3H, s); MS (API+)=409.0 (M+H)+.

reactant | 2-(4-Chloro-phenyl)-4-(5-methyl-1H-pyrazol-3-ylamino)-2H-phthalazin-1-one | 0.28 mmol, 0.10 g | ClC1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=N1)NC1=NNC(=C1)C)=O | C18H14ClN5O
reactant | aniline | 0.37 mmol, 0.034 g | NC1=CC=CC=C1 | C6H7N
reactant | NaOtBu | 0.43 mmol, 0.041 g | CC(C)(C)[O-].[Na+]
reactant | 2-(di-t-butylphosphino)-biphenyl | 0.057 mmol, 0.017 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
catalyst | tris-(dibenzylideneacetone)-dipalladium | 0.028 mmol, 0.026 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(5-Methyl-1H-pyrazol-3-ylamino)-2-(4-phenylamino-phenyl)-2H-phthalazin-1-one | 0.002 g, 2% yield | CC1=CC(=NN1)NC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)NC1=CC=CC=C1 | C24H20N6O
